US20010056207A1
Preparation of N-[3-[[2-(3,4-dimethoxyphenyl)ethyl]amino]propyl]-4-nitrobenzamide, Hydrochloride Hydrate
A solution of N-[3-[[2-(3,4-dimethoxyphenyl)ethyl]amino]propyl]-4-nitrobenzamide (211 g) in tetrahydrofuran (THF, 650 mls) was stirred at ambient temperature. Concentrated hydrochloric acid (62 mls) was added. The reaction temperature rose to 50° C. The mixture was cooled in an ice-bath to 25° C. then stirred at ambient temperature overnight. The suspension was cooled in an ice-bath for 2 hrs, the crystalline product filtered, washed with THF (250 mls) and left open to the atmosphere to equilibrate at ambient temperature to give the titled compound as a yellow solid.

reactant | N-[3-[[2-(3,4-dimethoxyphenyl)ethyl]amino]propyl]-4-nitrobenzamide | 211 g | COC=1C=C(C=CC1OC)CCNCCCNC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C20H25N3O5
reactant | hydrochloric acid | 62 mls | Cl | ClH
solvent | tetrahydrofuran | 650 mls | O1CCCC1 | C4H8O
product | N-[3-[[2-(3,4-dimethoxyphenyl)ethyl]amino]propyl]-4-nitrobenzamide, Hydrochloride Hydrate | O.Cl.COC=1C=C(C=CC1OC)CCNCCCNC(C1=CC=C(C=C1)[N+](=O)[O-])=O | InChI=1S/C20H25N3O5.ClH.H2O/c1-27-18-9-4-15(14-19(18)28-2)10-13-21-11-3-12-22-20(24)16-5-7-17(8-6-16)23(25)26;;/h4-9,14,21H,3,10-13H2,1-2H3,(H,22,24);1H;1H2
